US07271197B2
ii) (5R)-5-(2,2-Dimethyl-4H-1,3-benzodioxin-6-yl)-3-[2-(4-{2-[(4-isopropoxybenzyl)oxy]ethoxy}phenyl)ethyl]-1,3-oxazolidin-2-one
A solution of (4-isopropoxyphenyl)methanol (93 mg) in DMF (2 ml) was treated with sodium hydride (27 mg) under nitrogen and stirred for 0.5 h. To this was added the 2-(4-{2-[(5R)-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-2-oxo-1,3-oxazolidin-3-yl]ethyl}phenoxy)ethyl methanesulfonate (357 mg) {Example 15 i)} and the resulting solution was stirred for 18 h under nitrogen. The solution was then diluted in EtOAc, washed with water, dried (MgSO4) and concentrated in vacuo. The residue was purified by chromatography (Biotage, 40 g) eluting with 40-60° C. petroleum ether-EtOAc (2:1) to give the title compound (156 mg). LCMS RT=3.76 min.

reactant | (4-isopropoxyphenyl)methanol | 93 mg | C(C)(C)OC1=CC=C(C=C1)CO | C10H14O2
reactant | sodium hydride | 27 mg | [H-].[Na+]
reactant | 2-(4-{2-[(5R)-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-2-oxo-1,3-oxazolidin-3-yl]ethyl}phenoxy)ethyl methanesulfonate | 357 mg | CS(=O)(=O)OCCOC1=CC=C(C=C1)CCN1C(O[C@@H](C1)C1=CC2=C(OC(OC2)(C)C)C=C1)=O | C24H29NO8S
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (5R)-5-(2,2-Dimethyl-4H-1,3-benzodioxin-6-yl)-3-[2-(4-{2-[(4-isopropoxybenzyl)oxy]ethoxy}phenyl)ethyl]-1,3-oxazolidin-2-one | 156 mg | CC1(OCC2=C(O1)C=CC(=C2)[C@@H]2CN(C(O2)=O)CCC2=CC=C(C=C2)OCCOCC2=CC=C(C=C2)OC(C)C)C | C33H39NO7
